Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ yo man with PMH significant for depression,
anxiety and substance abuse (on suboxone) who presents after a
first time seizure. The patient was in his usual state of health
throughout the day today without any complaints or unusual
behavior. Around 7:30 he was eating a sandwich when he told his
wife "I don't feel good". He went into the bathroom and vomited.
He returned to the kitchen and repeated "I don't feel good" a
couple of times. He then went to lay down. His wife was next to
him when he suddenly became stiff and started shaking. She
describes both of his arms coming up to his chest and becoming
stiff. His legs with rigid out in front of him. His whole body
was shaking, he bit his tongue and was frothing at the mouth. 
She
things this lasted 8 min but is unsure. 911 was called. When 
they
arrived he was up and walking around but very confused asking 
for
his mother (who dose not live in the area). When they arrived in
the ED waiting room (around 9pm) the patient was almost
completely back to baseline other than a couple of moments of
confusion. He and his wife got up to go smoke cigarettes when he
again became stiff, both arms came to the chest and he lost
consciousness. this was witnessed by the ED staff who thought he
had right gaze deviation. His wife thought they went straight
back. He bit the other side of his tongue. This event lasted
30sec to 1min. 

The patient has never had an event like this or other events
concerning for seizure in his life. No febrile seizures as a
child. No head injuries or learning disability. No ___, out
of body experiences or olfactory hallucinations. He denies 
recent
drug use (or changes in drug use). Denies missed doses of his
meds. He has not been sick at all recently and denies poor 
sleep.

On neuro ROS: + dull headache. The pt denies loss of vision, 
blurred vision, diplopia, oscilopsia, dysarthria, dysphagia, 
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies 
difficulties producing or
comprehending speech. Denies focal weakness, numbness, 
paresthesias. No bowel or bladder incontinence or retention. 
Denies difficulty with gait.
 
Past Medical History:
- Anxiety 
- Depression 
- fall from height about ___ years ago. no head injury.  

 
Social History:
___
Family History:
No family history of seizure or neurologic Dx. 

 
Physical Exam:
MEDICAL EXAMINATION
T: 98.8 HR: 92 BP: 116/79 RR: 16 Sat: 99% on RA 

GENERAL MEDICAL EXAMINATION:
General appearance: alert, in no apparent distress
HEENT: Neck is supple. Sclera are non-injected. Mucous membranes
are moist. fresh injury to lateral aspect of tongue bl. 
CV: Heart rate is regular
Lungs: Breathing comfortably on RA 
Abdomen: soft, non-tender 
Extremities: No evidence of deformities. No contractures. No
Edema. 
Skin: No visible rashes. Warm and well perfused.

NEUROLOGICAL EXAMINATION:
Mental Status: awake and alert. oriented to year and hospital 
but
not the month. He could recall coming to the hospital but not
either event. Language is fluent and appropriate with intact
comprehension and repetition. Normal prosody. There were no
paraphasic errors. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. No neglect, left/right
confusion or finger agnosia. 

Cranial Nerves:
I: not tested
II:  pupils equally round and briskly reactive to light, both
directly and consensually. Visual fields full to finger 
counting.

III-IV-VI: Normal conjugated, extra-ocular eye movements in all
directions of gaze. No nystagmus or diplopia. 
V: Symmetric perception of LT in V1-3 
VII: Face is symmetric at rest and with activation; symmetric
speed and excursion with smile.
VIII: Hearing intact to finger rub bl
IX-X: Palate elevates symmetrically
XI: Shoulder shrug ___ bl 
XII: No tongue deviation or fasciculations

Motor: Normal muscle bulk and tone throughout. No pronator drift
or rebound. No asterixis or myoclonus noted.
Strength:
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
withdrawal of toes bilaterally.

Sensory: normal and symmetric perception of pinprick, light
touch, vibration and temperature. No agraphesthesia bl. No
extinction to DSS.

Coordination: Finger to nose without dysmetria bilaterally. No
intention tremor. RAM were symmetric with regard to cadence and
speed, no dysdiadochokinesia noted.

Gait: unable to test

DISCHARGE EXAM:

MEDICAL EXAMINATION
T: 98.8 HR: 92 BP: 116/79 RR: 16 Sat: 99% on RA 

GENERAL MEDICAL EXAMINATION:
General appearance: alert, in no apparent distress
HEENT: Neck is supple. Sclera are non-injected. Mucous membranes
are moist. fresh injury to lateral aspect of tongue bl. 
CV: Heart rate is regular
Lungs: Breathing comfortably on RA 
Abdomen: soft, non-tender 
Extremities: No evidence of deformities. No contractures. No
Edema. 
Skin: No visible rashes. Warm and well perfused.

NEUROLOGICAL EXAMINATION:
Mental Status: awake and alert. Able to recall and relay history 
of recent events.  Language is fluent and appropriate with 
intact
comprehension and repetition. Normal prosody. There were no
paraphasic errors. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. 

Cranial Nerves:
II:  pupils equally round and briskly reactive to light, both
directly and consensually. Visual fields full.

III-IV-VI: Normal conjugated, extra-ocular eye movements in all
directions of gaze. No nystagmus or diplopia. 
VII: Face is symmetric at rest and with activation; symmetric
speed and excursion with smile.
VIII: Hearing intact to finger rub bl
IX-X: Palate elevates symmetrically
XI: Shoulder shrug ___ bl 

Motor: Normal muscle bulk and tone throughout. No pronator drift
or rebound.

Strength:
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Sensory: normal and symmetric perception of light
touch.

Coordination: Finger to nose without dysmetria bilaterally. No
intention tremor.

 
Pertinent Results:
___ 10:10PM BLOOD WBC-13.9* RBC-5.32 Hgb-16.3 Hct-50.2 
MCV-94 MCH-30.6 MCHC-32.5 RDW-13.8 RDWSD-47.7* Plt ___
___ 06:10AM BLOOD WBC-11.5* RBC-4.48* Hgb-13.7 Hct-40.5 
MCV-90 MCH-30.6 MCHC-33.8 RDW-13.8 RDWSD-45.9 Plt ___
___ 06:10AM BLOOD ___ PTT-29.3 ___
___ 10:10PM BLOOD Glucose-125* UreaN-6 Creat-1.0 Na-147* 
K-3.4 Cl-100 HCO3-17* AnGap-33*
___ 06:10AM BLOOD Calcium-9.2 Phos-4.4 Mg-2.0
___ 10:10PM BLOOD ALT-32 AST-28 AlkPhos-78 TotBili-0.2
___ 12:16AM BLOOD Lactate-2.7*
___ 06:10AM BLOOD TSH-0.23*
___ 10:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:30AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 12:30AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-POS* amphetm-NEG oxycodn-NEG mthdone-NEG

 
Brief Hospital Course:
Mr. ___ was admitted to the Neurology after having two 
seizures.  The first one was witnessed by his wife at home, 
after which he was brought to the ER.  He was returning to 
baseline when he had another event witnessed by medical staff in 
the ED.  Both events appear to have been generalized tonic 
clonic events, although there was mention by a staff member that 
the patient's eyes may have deviated to the R.  Due to the fact 
that the patient had two seizures in 24 hours and was not back 
to baseline, he was observed overnight.  He had basic labs 
including CBC, Chem, LFTs, coags, and a UA that were 
unremarkable.  Lactate was slightly elevated after the event.  
Serum tox was negative was negative but urine tox was positive 
for cocaine.  

Although it was felt that Mr. ___ event was most likely due 
to cocaine use in conjunction with sleep deprivation an EEG was 
performed to assess further risk for seizures.  Wet read at the 
time of discharge noted no epileptiform discharges, but 
reportedly was somewhat slow for his age. This brief study does 
not indicate that the patient is at increased risk for seizure 
in the future.  We recommended an inpatient MRI, however, the 
patient declined and asked to be discharged to attend to issues 
at home.  His neurologic exam was normal and he had returned to 
baseline; given the fact that his seizures were likely provoked 
events, it was felt that he was safe to be discharged home.  He 
was advised to set up an outpatient MRI Brain to evaluate for 
seizure focus, which was ordered prior to discharge. Patient was 
agreeable to this plan.  Social Work met with the patient 
briefly to discuss drug use, but there was no expressed 
recognition that drug use may be a problem or desire to quit.  
He was nonetheless informed that cocaine use does decrease 
seizure threshold and he should consider discontinuing substance 
use.  Seizure precautions were reviewed.  Patient is to call to 
make a follow up appointment with Neurology (Dr. ___ in ___ 
weeks.  

Transitional Issues:
-MRI Brain w w/o contrast should be performed within 1 week. 
-According to ___ Law, patient cannot drive or 
operate heavy machinery for 6 months after having a seizure. 
-TSH was checked and returned after discharge; slightly below 
normal at 0.23 (range 0.27-4.2).  It is unlikely that this 
contributed to his seizure, but could indicate hypothyroidism.  
TSH and FT4 should be rechecked by his PCP within one week.  
Patient was called and notified of this result and asked to 
follow up with his PCP ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 20 mg PO DAILY 
2. CloNIDine 0.2 mg PO BID 
3. ALPRAZolam 1 mg PO TID:PRN anxiety 
4. Prazosin 2 mg PO DAILY 
5. Gabapentin 800 mg PO TID 

 
Discharge Medications:
1. ALPRAZolam 1 mg PO TID:PRN anxiety 
2. FLUoxetine 20 mg PO DAILY 
3. Prazosin 2 mg PO DAILY 
4. Gabapentin 800 mg PO TID 
5. CloNIDine 0.2 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Generalized seizure
Cocaine use
 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Neurology service at ___ after 
having two seizures.  Upon evaluation in the ED it was not clear 
what may have provoked your seizures and you were still not 
quite back to yourself, so you were observed overnight.  By the 
following morning you were feeling well and your exam was 
normal. You were noted to have cocaine in your urine, which was 
felt to be the likely cause of your seizure, possibly in 
conjunction with sleep deprivation.  You had an EEG to assess 
your risk for future seizures which was not formally read at the 
time of your discharge. It is important to call for a neurology 
appointment and keep it to make sure that you can review the 
results of your EEG with your new neurologist. 

It is also extremely important that you have an MRI of your 
brain. We understand that there are issues you need to attend to 
which prevent you from staying in hospital until your scan can 
be done. However, please call ___ later today to book 
your MRI brain. 

You must make sure you sleep enough at night and stop using 
cocaine - these caused your seizure. Because there were clearly 
identifiable causes, you do not need seizure medication at this 
time. Please come back to the emergency room if you have another 
seizure. 

According to ___ Law, you cannot drive or 
operate heavy machinery for 6 months after you have a seizure.  
Do not do anything that would be dangerous were you to have a 
seizure (for example climbing ladders, swimming alone, bathing 
alone, cooking over an open flame, etc). Please call us if you 
have any questions. 

Please call your primary care doctor for an appointment within 
the next ___ weeks. 

Please call ___ for the next available appointment 
with Dr. ___ who ___ be your new neurologist. 
 
Followup Instructions:
___